// Generated for: spectre (Apr 19 14:31:21 2013 )
// Library name: gsclib045_lvt
// Cell name: CLKBUFX16
// View name: schematic

simulator lang=spectre

subckt CLKBUFX16 A Y VSS VDD
mp1 (Y net44 VDD VDD) g45p1lvt w=(6.23u) l=45n nf=1 as=872.2f ad=872.2f \
        ps=12.74u pd=12.74u nrd=22.4719m nrs=22.4719m sa=140n sb=140n \
        sd=160n sca=46.11574 scb=0.05095 scc=0.00583 m=(1)
mp0 (net44 A VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f ad=218.4f \
        ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n sb=140n sd=160n \
        sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mn1 (Y net44 VSS VSS) g45n1lvt w=(4.13u) l=45n nf=1 as=578.2f ad=578.2f \
        ps=8.54u pd=8.54u nrd=33.8983m nrs=33.8983m sa=140n sb=140n \
        sd=160n sca=48.77178 scb=0.05238 scc=0.00610 m=(1)
mn0 (net44 A VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f ad=145.6f \
        ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n sb=140n \
        sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
ends CLKBUFX16
// End of subcircuit definition.

