// Generated for: spectre (Apr 19 14:31:31 2013 )
// Library name: gsclib045_lvt
// Cell name: CLKINVX16
// View name: schematic

simulator lang=spectre

subckt CLKINVX16 A Y VDD VSS
mp0 (Y A VDD VDD) g45p1lvt w=(6.23u) l=45n nf=1 as=872.2f ad=872.2f \
        ps=12.74u pd=12.74u nrd=22.4719m nrs=22.4719m sa=140n sb=140n \
        sd=160n sca=46.11574 scb=0.05095 scc=0.00583 m=(1)
mn0 (Y A VSS VSS) g45n1lvt w=(4.13u) l=45n nf=1 as=578.2f ad=578.2f \
        ps=8.54u pd=8.54u nrd=33.8983m nrs=33.8983m sa=140n sb=140n \
        sd=160n sca=48.77178 scb=0.05238 scc=0.00610 m=(1)
ends CLKINVX16
// End of subcircuit definition.

